2139-05-21 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo F ETOH cirrhosis presents with confusion, fevers and cough.  The
   patient was not able to answer any questions in the emergency
   department.
   24 Hour Events:
   Liver service consulted
   Steroids deferred given concern for infection
   abdominal ultrasound performed iwth minimal IVF
   continued ceftriaxone for possible sbp
   lactulose started, continued rifaxamin
   patient started to move bowels, guaiac negative
   History obtained from Family / [**Hospital 380**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-21**] 08:00 AM
   Lorazepam (Ativan) - [**2139-5-21**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-21**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 102 (102 - 124) bpm
   BP: 128/67(79) {116/63(77) - 143/78(93)} mmHg
   RR: 36 (24 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
             Total In:
                                                                  2,010 mL
                                                                  2,206 mL
   PO:
             TF:
   IVF:
                                                                     10 mL
                                                                  2,206 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                    980 mL
   Urine:
                                                                    110 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,900 mL
                                                                  1,226 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.53/33/109/24/5
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, sluggish pupils
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , No(t) Crackles : ,
   Rhonchorous: anteriorly)
   Abdominal: Soft, Distended, enlarged spleen
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   7.9 g/dL
   99 K/uL
   95 mg/dL
   0.6 mg/dL
   24 mEq/L
   2.6 mEq/L
   4 mg/dL
   98 mEq/L
   139 mEq/L
   24.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2139-5-20**]  09:49 PM
                             [**2139-5-20**]  10:17 PM
                             [**2139-5-21**]  02:14 AM
                             [**2139-5-21**]  05:20 AM
   WBC
   8.2
   8.2
   Hct
   25.0
   24.3
   Plt
   108
   99
   Cr
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   Glucose
   85
   95
   Other labs: PT / PTT / INR:19.8/45.7/1.8, CK / CKMB /
   Troponin-T:820/41/<0.01, ALT / AST:61/231, Alk Phos / T Bili:478/28.3,
   Lactic Acid:3.9 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   42 yo F etoh hepatitis
   1. Acute liver failure - likely etoh hepatitis, but cannot r/u drug
   use, hcv, hbv, SBP with MELD 26
   - will repeat repeat hepatitis viral studies
   - repeat abdominal ultrasound with tap
     - cont ctx for possible sbp
    - cont trend LFTs q 6hr
   2. Hypotension, metabolic acidosis: appears less likely infectious but
   will rule this out
    - IR-guided para for SBP
    - f/u blood and urine cultures
   3. Encephalopathy: likely [**3-10**] liver failure and possible etoh abuse
    - head CT
    - rifaxamin
    - lactulose as toleratered
   4. ETOH:
    - continue CIWA scale with ativan
    - thiamine, folate
    - tox
   5. elevated ck: normal troponins and  no significant ekg changes,
   likely [**3-10**] muscle breakdown
   6.  electrolyte abnormalitis: will replete as necessary
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2139-5-20**] 11:06 PM
   20 Gauge - [**2139-5-21**] 12:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2139-05-22 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2139-5-21**] 02:00 PM
   - Patient started on steroids and pentoxyphylline
   - No diagnostic para done as not enough ascites to tap
   - CT head done with no acute intracranial process
   - RUQ US with flow showed: fatty infiltration of liver, patent portal
   vein flow, no ascites
   - overnight, became more agitated, tachycardic, consistent with ETOH
   withdrawal so increased ativan CIWA to Q1hr, got one dose of 4mg IV
   ativan overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-21**] 08:00 PM
   Lorazepam (Ativan) - [**2139-5-22**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-22**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 125 (95 - 134) bpm
   BP: 103/53(100) {102/41(60) - 149/93(136)} mmHg
   RR: 43 (24 - 47) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
             Total In:
                                                                  2,946 mL
                                                                    196 mL
   PO:
                                                                     40 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  2,906 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    675 mL
   Urine:
                                                                  2,080 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    866 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   8.0 g/dL
   125 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.7 mEq/L
   5 mg/dL
   101 mEq/L
   139 mEq/L
   25.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-5-20**]  09:49 PM
                             [**2139-5-20**]  10:17 PM
                             [**2139-5-21**]  02:14 AM
                             [**2139-5-21**]  05:20 AM
                             [**2139-5-21**]  03:40 PM
                             [**2139-5-21**]  08:04 PM
                             [**2139-5-22**]  04:24 AM
   WBC
   8.2
   8.2
   8.7
   8.5
   10.2
   Hct
   25.0
   24.3
   25.5
   24.7
   25.0
   Plt
   108
   99
   116
   116
   155
   Cr
   0.7
   0.6
   0.7
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   28
   Glucose
   85
   95
   83
   102
   125
   Other labs: PT / PTT / INR:17.3/41.3/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:63/256, Alk Phos / T Bili:427/33.7,
   Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:1408 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   42 year old female with a history of alcoholic cirrhosis, hypokalemia,
   hypomagnesemia and orthostatic hypotension who presents with confusion,
   fevers, lactate elevation and worse hepatic failure.
   .
   #Acute Hepatic Failure:  Patient previously with preserved synthetic
   function.  Most likely etiology is acute alcoholic hepatitis.
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Lactate raises concern for infection although may be related to
   liver failure. Discriminate function is 63.  Estimated mortality given
   her degree of elevation in the presence of encephatlopathy is on the
   order of 45%. MELD score now 26 range.
   .
   - f/up blood and urine cultures
   - f/up final CXR read
   - repeat hepatitis viral serologies
   - liver consult
   - hold off on steroids for now while r/o infections
   - continue on lactulose TID
   - IR guided paracentesis in morning / check for SBP
   - + rifaximin
   - continue on IV CTX for SBP while pending work-up
   - social work consult
   - repeat ABD US in a.m with IR
   .
   # Encephalopathy: Most consistent with hepatic encephalopathy with
   positive asterixis and in setting of acute hepatic failure
   - Q2hr neuro checks
   - CT head
   #SIRS/Sepsis:  Elevated lactate, tachycardiac, tachypneic, liver
   failure all concerning for sepsis/SIRS.  Not currently hypotensive and
   no elevated WBC which is reassuring. [**Month (only) 11**] all be related to liver
   failure/alcoholic hepatitis as well. No evidence of biliary source per
   ultrasound although poor study.
   - send off UA, urine cultures
   - repeat lactate/ABG
   - f/up CXR, blood cultures, plan a paracentesis tomorrow
   - continue on ceftriaxone
   - continue IVFs overnight / keep MAPs >65
   - keep UOP >30cc/hr
   - consider repeat RUQ US given poor ED study
   .
   #Elevated CK: Per patient's sister her fiance uses cocaine and she
   feels the patient has also been using.EKGs with no overt elevations but
   nonspecific TW changes differ from prior EKGs. Patient denies [**Last Name (un) **] pain
   but also very confused and limited historian. Given tachycardia may be
   secondary to demand ischemia as well. No known CAD per prior records.
   .
   -repeat EKG
   -check TTE in morning
   -trend enzymes x 3 sets
   -will add on cocaine urine levels
   .
   #Electrolyte Abnormalities:  Previously attributed to alcoholism, poor
   nutrition and renal electrolyte wasting secondary to alcohol. She has
   longstanding low Mg and low K as outpatient. Changes likely from
   acutely worse liver failure.
   - aggressive repletion for now
   - replete Phosphorus
   - given IV Ca gluconate, IV 2mg Mg x1 and PO K 40mEq x 2 on admission
   .
   #Alcohol Abuse:  Current alcohol use per family.  History of withdrawal
   but no known DTs or seizures. At high risk for withdrawal now as last
   drink yesturday.
   - Ativan CIWA
   - thiamine, folate, MVI
   .
   #Anemia:  Hematocrit 25 from baseline of 30, likely related to alcohol
   abuse and liver failure although history of bloody stools is
   concerning.
   - active type and screen
   - stool guaiacs
   - consider vitamin K for elevated INR
   .
   #Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae.
   -erythromycin eye ointment QID
   -continue to monitor
   .
   #peripheral neuropathy
   - holding gabapentin for now given sedated
   .
   FEN: NPO diet, aggressive electrolyte repletion, IVF boluses for
   tachycardia, lactate
   Access: peripherals
   PPX: Pneumoboots
   Dispo: ICU for now
   Code: Full Code, confirmed with sister and fiance
   [**Name (NI) 459**]: Fiance (I don't know his name or number). Sister [**Name (NI) 3870**] [**Name (NI) **]
   #[**Telephone/Fax (1) 3871**], states she is her HCP.
   ICU [**Name2 (NI) 232**]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2139-5-20**] 11:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-22 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   This is a 42 yo F with ETOH abuse, ETOh cirrhosis who presents with
   liver failure and altered mental status.
   24 Hour Events:
   Developed signs and symptoms of ETOH withdrawal over night.  Intubated
   early in the morning for airway protection.
   Started steroids and pentoxyphiline
   Attempted paracentesis but no ascites
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-21**] 08:00 PM
   Lorazepam (Ativan) - [**2139-5-22**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-22**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 133 (95 - 134) bpm
   BP: 132/93(104) {102/41(60) - 149/93(136)} mmHg
   RR: 38 (24 - 47) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
             Total In:
                                                                  2,946 mL
                                                                    721 mL
   PO:
                                                                     40 mL
                                                                     80 mL
   TF:
   IVF:
                                                                  2,906 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                    925 mL
   Urine:
                                                                  2,080 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    866 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bilateral)
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Decreased
   Labs / Radiology
   8.0 g/dL
   155 K/uL
   125 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.7 mEq/L
   5 mg/dL
   101 mEq/L
   139 mEq/L
   25.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-5-20**]  09:49 PM
                             [**2139-5-20**]  10:17 PM
                             [**2139-5-21**]  02:14 AM
                             [**2139-5-21**]  05:20 AM
                             [**2139-5-21**]  03:40 PM
                             [**2139-5-21**]  08:04 PM
                             [**2139-5-22**]  04:24 AM
   WBC
   8.2
   8.2
   8.7
   8.5
   10.2
   Hct
   25.0
   24.3
   25.5
   24.7
   25.0
   Plt
   108
   99
   116
   116
   155
   Cr
   0.7
   0.6
   0.7
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   28
   28
   Glucose
   85
   95
   83
   102
   125
   Other labs: PT / PTT / INR:17.3/41.3/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:63/256, Alk Phos / T Bili:427/33.7,
   Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL, LDH:1408 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Imaging: RUQUS: scant ascites, hepatomegaly, normal portal vein flow
   Assessment and Plan
   This is a 42 yo F with ETOH abuse, ETOh cirrhosis who presents with
   liver failure and altered mental status.
   1. Acute liver failure: likely [**3-10**] etoh hepatitis related to recent
   increase in ETOH intake.
    - LFTs stable but elevated with discriminant function 63
    - will continue to trend lfts q 8hr, electrolytes
    - f/u hepatitis serologies
    - cont prednisone 40 qday, pentoxyphline
    - cont ceftriaxone for possible SBP, occult infections given low grade
   temp but if culture data negative at 48 hours will d/c
   2. Encephalopathy: [**3-10**] etoh withdrawal/DT, hepatitis
    - continue lactulose for hepatic encephalopathy
    - standing haldol 2 mg q 8hr with daily ekg and maintain Mg and K
    - ativan gtt for withdrawal
    - will add additional propofol on top of this for sedation while
   intubated
    - fentanyl at 25 ucg/hr for pain
    - lactulose and rifaxamine for encephalopathy
    - cont thiamine, folate, mvi
   3. Infection: no s/sx infection, will d/c ctx for additional day and if
   all culture data remains negative then d/c
   4. Anemia: hct stable with INR 1.5
    - no s/sx active bleed, transfuse goal > 22
   5. Conjunctivities: erythromycin drops
   6. FEN: will place feeding tube today
   7. Hemodynamics:
    - will need cvl and arterial line for hemodynamic support
 CIRRHOSIS OF LIVER, ALCOHOLIC
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALCOHOL ABUSE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2139-5-20**] 11:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 90 minutes
   Patient is critically ill

2139-05-23 06:53:00 Physician Resident Progress Note
Chief Complaint:
   42 yo F with alcoholic cirrhosis and multiple electrolyte abnormalities
   who p/w fulminant hepatic failure likely [**3-10**] increased ETOH intake
   24 Hour Events:
   - intubated for airway protection &  large dose of sedatives required
   - started on ativan drip, fentanyl, haldol, propofol
   - A line placed
   - started on tube feeds
   - transfused 1 unit, hb 6.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Lorazepam (Ativan) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2139-5-22**] 08:00 AM
   Fentanyl - [**2139-5-22**] 09:00 AM
   Midazolam (Versed) - [**2139-5-22**] 09:00 AM
   Propofol - [**2139-5-22**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-23**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 95 (91 - 145) bpm
   BP: 112/66(81) {94/57(69) - 115/66(81)} mmHg
   RR: 20 (20 - 55) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
           Total In:
                                                                  6,111 mL
                                                                  1,174 mL
   PO:
                                                                     80 mL
           TF:
                                                                     20 mL
                                                                    173 mL
   IVF:
                                                                  5,471 mL
                                                                    427 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,750 mL
                                                                    930 mL
   Urine:
                                                                  1,650 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,361 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.35/42/82.[**Numeric Identifier **]/21/-2
   Ve: 8.7 L/min
   PaO2 / FiO2: 207
   Physical Examination:
   General : intubated, sedated
   HEENT: PERRLA,  sclera icterus, small amount of crusting over eyelids,
   no OP bleeding now
   Neck: supple,  no JVD noted
   LUNGS: bibasilar crackles, no wheezes, anterior rhonchi bilat
   CV:  normal s1 and s2, no murmurs, rubs, gallops and RRR
   ABD:  liver tip palpable  4-5 cm below costal margin, normal  bowel
   sounds, soft
   EXT:  boots in place, 2+ pedal pulses, warm , trace edema
   Neuro:  unable to assess as pt. sedated
   Lines/tubes/drains: foley, 3 PIVs (18g/16g/20g and an A-line in place)
   Labs / Radiology
   150 K/uL
   6.9 g/dL
   116 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   5 mg/dL
   112 mEq/L
   144 mEq/L
   23.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2139-5-21**]  02:14 AM
                             [**2139-5-21**]  05:20 AM
                             [**2139-5-21**]  03:40 PM
                             [**2139-5-21**]  08:04 PM
                             [**2139-5-22**]  04:24 AM
                             [**2139-5-22**]  01:59 PM
                             [**2139-5-22**]  08:32 PM
                             [**2139-5-22**]  08:39 PM
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
   WBC
   8.2
   8.7
   8.5
   10.2
   10.4
   10.1
   9.9
   Hct
   24.3
   25.5
   24.7
   25.0
   24.4
   23.0
   Plt
   99
   116
   116
   155
   131
   124
   150
   Cr
   0.6
   0.7
   0.5
   0.5
   0.8
   0.7
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   28
   23
   24
   Glucose
   95
   83
   102
   125
   81
   110
   116
   Other labs: PT / PTT / INR:16.5/40.4/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:49/157, Alk Phos / T Bili:367/31.7,
   Amylase / Lipase:/93, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL,
   LDH:1408 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   [**5-20**] urine cx 9000 GNRs
   [**5-20**] blood cx pending
   [**5-21**] Sputum cx
   GRAM STAIN (Final [**2139-5-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CHAINS.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2139-5-23**]):
      SPARSE GROWTH Commensal Respiratory Flora.
      MORAXELLA CATARRHALIS.    MODERATE GROWTH.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   42 year old female with a history of alcoholic cirrhosis who presented
   with acute fulminant hepatic failure with multiple electrolyte
   abnormalities, confusion, fevers, & lactate elevation
   .
   #Alcoholic hepatitis:
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45%.
   - continue steroids d3, pentoxiphylline
   - continue tube feeds
   - liver recs appreciated
   - trend LFTs, synthetic function daily
   - liver recs appreciated, f/up additional input
   - no clear evidence of infection (no infiltrate, blood and urine cx
   unremarkable) therefore will STOP ceftriaxone
   .
   # Encephalopathy:
   Most consistent with hepatic encephalopathy and EtoH withdrawal. CT
   head without evidence of any bleeding.
   - continue lactulose and rifaximin
   - try to limit further titration of fentanyl
   .
   # EtoH withdrawal
   - ativan drip to max 8mg/hr
   - continue propofol
   - basal fentanyl
 wean as tolerated
   - start haldol 2mg q8h, monitor QTC
   - continue mvt/thiamine/folate
   - social work input appreciated
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.
   - active type and screen, transfuse hct>21 or active bleeding
   - continue PPI
   - stool guaiacs
   .
   # Vent
   Overbreathing AC. CXR clear. She had been intubated for airway
   protection.
   - Change to PSV today
   .
   # Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae.  Exam improved
   -erythromycin eye ointment QID
   -continue to monitor
   .
   # peripheral neuropathy
   - holding gabapentin for now given sedated
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-22**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2139-05-23 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated for airway protection complicated by large dose requirement
   for induction and oropharyngeal bleeding.  Received 1 unit PRBC.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Lorazepam (Ativan) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-23**] 08:43 AM
   Other medications:
   lactulose, MVI, Thiamine, rifaximine, prednisone 40mg, trental, folate,
   peridex, haldol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-23**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 84 (84 - 119) bpm
   BP: 102/56(70) {94/55(69) - 115/66(81)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
           Total In:
                                                                  6,111 mL
                                                                  2,225 mL
   PO:
                                                                     80 mL
           TF:
                                                                     20 mL
                                                                    356 mL
   IVF:
                                                                  5,471 mL
                                                                    994 mL
   Blood products:
   375 mL
   Total out:
                                                                  1,750 mL
                                                                  1,122 mL
   Urine:
                                                                  1,650 mL
                                                                    622 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,361 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/42/82.[**Numeric Identifier **]/21/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   150 K/uL
   116 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   5 mg/dL
   112 mEq/L
   144 mEq/L
   25.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2139-5-21**]  02:14 AM
                             [**2139-5-21**]  05:20 AM
                             [**2139-5-21**]  03:40 PM
                             [**2139-5-21**]  08:04 PM
                             [**2139-5-22**]  04:24 AM
                             [**2139-5-22**]  01:59 PM
                             [**2139-5-22**]  08:32 PM
                             [**2139-5-22**]  08:39 PM
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
   WBC
   8.2
   8.7
   8.5
   10.2
   10.4
   10.1
   9.9
   Hct
   24.3
   25.5
   24.7
   25.0
   24.4
   23.0
   25.5
   Plt
   99
   116
   116
   155
   131
   124
   150
   Cr
   0.6
   0.7
   0.5
   0.5
   0.8
   0.7
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   28
   23
   24
   Glucose
   95
   83
   102
   125
   81
   110
   116
   Other labs: PT / PTT / INR:16.5/40.4/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:49/157, Alk Phos / T Bili:367/31.7,
   Amylase / Lipase:/93, Lactic Acid:2.7 mmol/L, Albumin:2.9 g/dL,
   LDH:1408 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR:  ETT in place.  No lines.  Low lung volumes but no focal
   infiltrates or signs of overload.
   Assessment and Plan
   This is a 42 yo F with ETOH abuse, ETOh cirrhosis who presents with
   liver failure and altered mental status.
    1. Acute liver failure: likely [**3-10**] etoh hepatitis related to recent
   increase in ETOH intake.
   - will continue to trend lfts q 8hr, electrolytes
   - f/u hepatitis serologies
   - cont prednisone 40 qday, pentoxyphline for elevated discriminant
   function
   - D/c ceftriaxone today as no evidence of GIB and no sputum/infiltrate
   to suggest PNA.
    2. Encephalopathy: [**3-10**] etoh withdrawal/DT, hepatitis.  Very difficult
   to sedate overnight.
    - continue lactulose, rifaximin for hepatic encephalopathy
    - fentanyl, ativan gtt and proprol for sedation at present, will work
   to simplify this now that she is sedate.
   - cont thiamine, folate, mvi
    -Follow EKGs on Haldol.
   3. Respiratory Failure:  Intubated for airway protection
   -PSV trial today.
   4. Anemia: hct stable with INR 1.5
    - no s/sx active bleed since O/P trauma with intubation, transfuse
   goal > 21
   -Check HCT q8hr today
   5. Conjunctivitis: erythromycin drops
    6. FEN: TF started.
   7.  Access:  PIVs: 16, 18, 20  A-line
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-22**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2139-05-24 06:31:00 Physician Resident Progress Note
Chief Complaint: 42yo F with alcoholic hepatitis, AMS, elevated lactate
   & recent fevers
   24 Hour Events:
   Liver recs were to continue current regimen of lactulose, rifaximine,
   prednisone
   - d/c ceftriaxone today as no fevers, no leukocytosis, no clear source,
   not enough abd fluid to tap
   - sister came in and signed ICU consent (stated she was HCP and [**Name (NI) 1980**]/
   parents both deceased)
   - Hcts stable now at 26 range
   - tolerated CPAP well [**11-10**] then back on A/C overnight, weaned down
   fentanyl and propofol last night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Lorazepam (Ativan) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-23**] 08:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-24**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 100 (84 - 110) bpm
   BP: 102/55(71) {88/47(62) - 123/66(83)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,665 mL
                                                                    657 mL
   PO:
             TF:
                                                                    861 mL
                                                                    260 mL
   IVF:
                                                                  1,509 mL
                                                                    116 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,531 mL
                                                                  1,220 mL
   Urine:
                                                                  1,031 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,134 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 107 (107 - 382) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 174
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 97%
   ABG: 7.36/39/87.[**Numeric Identifier 274**]/20/-2
   Ve: 9.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General: sedated, intubated , NAD
   HEENT:  OP clear with ETT in place, PERRL but noted left eye proptosis
   SKIN: no rashes, no petechiae
   CVS: S1/S2 regular, RRR,  no murmurs / rubs / gallops
   LUNGS:  mild bibasilar crackles , minimal rhonchi anteriorly
   ABD: distended, + HSM
   EXT: pneumoboots in place, 2+ pedal pulses , peripheral edema / pitting
   Labs / Radiology
   135 K/uL
   8.2 g/dL
   112 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   4 mg/dL
   116 mEq/L
   146 mEq/L
   26.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-5-22**]  01:59 PM
                             [**2139-5-22**]  08:32 PM
                             [**2139-5-22**]  08:39 PM
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
                             [**2139-5-23**]  12:46 PM
                             [**2139-5-23**]  02:01 PM
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
   WBC
   10.4
   10.1
   9.9
   10.3
   11.3
   10.2
   Hct
   24.4
   23.0
   25.5
   26.4
   26.3
   26.2
   Plt
   131
   124
   150
   151
   159
   135
   Cr
   0.8
   0.7
   0.9
   1.0
   0.4
   0.4
   TCO2
   23
   24
   24
   23
   Glucose
   81
   110
   116
   107
   126
   112
   Other labs: PT / PTT / INR:15.8/39.0/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:45/133, Alk Phos / T Bili:349/36.3,
   Amylase / Lipase:/93, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL,
   LDH:1408 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan:
   42 year old female with a history of alcoholic cirrhosis who presented
   with acute fulminant hepatic failure with multiple electrolyte
   abnormalities, confusion, fevers, & lactate elevation
   .
   #Alcoholic hepatitis:
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45%.  Bilirubin continues to climb.
   - continue steroids d4, pentoxiphylline
   - continue tube feeds via OGT
   - liver recs appreciated
   - trend LFTs, synthetic function daily
   - liver recs appreciated, f/up additional input
   - no clear evidence of infection (no infiltrate, blood and urine cx
   unremarkable) therefore stopped ceftriaxone yesterday
   .
   # Encephalopathy:
   Most consistent with hepatic encephalopathy and EtoH withdrawal. CT
   head without evidence of any bleeding.
   - continue lactulose and rifaximin
   - try to limit  Fentanyl  and d/c her propofol at this point
   .
   # EtoH withdrawal:
   - Ativan drip to max 8mg/hr now , will wean today
   - now off of propofol completely
   - basal Fentanyl with boluses as needed /  weaning slowly as tolerates
   - continue on haldol 2mg q8h standing, monitor QTC
   - continue mvt/thiamine/folate
   - social work input appreciated, will continue to follow
   .
   #Stool changes: stools more odorous and discolored today. [**Month (only) 11**] just
   simply be lactulose effects and hyperbilirubinemia vs.  recent
   antibiotics with ceftriaxone.
   - will send off C.difficile
   .
   #Electrolyte abnormalities: Chronic issue even as outpatient as she has
   need for Mg and K repletion at home. She has been having low Phos, Mg,
   K  in setting of worse liver failure
   --Will continue to check [**Hospital1 **] lytes and replete as needed
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.
   - active type and screen, transfuse hct>21 or active bleeding
   - check Hcts daily
   - continue PPI
   - stool guaiacs
   .
   # Ventilation:
   Overbreathing slightly but will allow given metabolic acidosis.  CXRs
   have been  clear. She had been intubated for airway protection / AMS.
   - Did not tolerate PSV well so will continue to rest on A/C for today
   to maintain safe airway given extreme AMS and encephalopathy.
   .
   # Increased secretions/ recent fevers:  No current leukocytosis or
   fevers and lactate elevation has now corrected so may not be any clear
   infection.  Intubation with AMS on admission so need to be weary of
   aspiration PNAs and VAP.
   -CIS, low threshold to cover with Abx / holding off for now
   -f/up sputum, blood cultures
   -follow CXRs for interval changes
   .
   # Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae when admitted.  Much improved eye exam with no
   crusting today.
   -erythromycin eye ointment QID ( day 4 of 7 )
   -continue to monitor ; improving
   .
   # peripheral neuropathy
   - holding gabapentin for now given sedated
   ICU Care
   Nutrition: OG tube / tube feeds
   Fibersource HN (Full) - [**2139-5-24**] 02:58 AM 40 mL/hour
   Glycemic Control:  will follow FSGs, add SSI as needed
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT:   pneumoboots /  SC heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2139-05-24 11:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Ceftriaxone d/c'd yesterday.  Tolerated PSV yesterday.
   Propofol weaned off.   This AM, tachypneic with PSV.
   Secretions thicker today than yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2139-5-21**] 06:49 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Lorazepam (Ativan) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2139-5-24**] 08:19 AM
   Other medications:
   KCL, MgSO4, Pantoprazole, lactulose, MVI, thiamine, trental, prednisone
   40mg, rifaximin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-24**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 109 (95 - 110) bpm
   BP: 104/52(71) {91/47(62) - 123/71(88)} mmHg
   RR: 31 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,665 mL
                                                                  1,597 mL
   PO:
             TF:
                                                                    861 mL
                                                                    461 mL
   IVF:
                                                                  1,509 mL
                                                                    616 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,531 mL
                                                                  1,645 mL
   Urine:
                                                                  1,031 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,134 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 107 (107 - 382) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 174
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/39/87.[**Numeric Identifier 274**]/20/-2
   Ve: 13.4 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema, Scleral icterus
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), Course ventilated BS B/L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   135 K/uL
   112 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   4 mg/dL
   116 mEq/L
   146 mEq/L
   26.2 %
   10.2 K/uL
        [image002.jpg]
                             [**2139-5-22**]  01:59 PM
                             [**2139-5-22**]  08:32 PM
                             [**2139-5-22**]  08:39 PM
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
                             [**2139-5-23**]  12:46 PM
                             [**2139-5-23**]  02:01 PM
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
   WBC
   10.4
   10.1
   9.9
   10.3
   11.3
   10.2
   Hct
   24.4
   23.0
   25.5
   26.4
   26.3
   26.2
   Plt
   131
   124
   150
   151
   159
   135
   Cr
   0.8
   0.7
   0.9
   1.0
   0.4
   0.4
   TCO2
   23
   24
   24
   23
   Glucose
   81
   110
   116
   107
   126
   112
   Other labs: PT / PTT / INR:15.8/39.0/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:45/133, Alk Phos / T Bili:349/36.3,
   Amylase / Lipase:/93, Lactic Acid:1.9 mmol/L, Albumin:2.9 g/dL,
   LDH:1408 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:1.1 mg/dL
   Imaging: CXR: ETT 5.5cm from carina.  No infiltrates. Loss of
   hemidiaphragms B/L.
   Microbiology: Sputum Cx: pending, GS with 4+ GNR
   Assessment and Plan
   This is a 42 yo F with ETOH abuse, ETOh cirrhosis who presents with
   liver failure and altered mental status.
   1. Acute liver failure: likely [**3-10**] etoh hepatitis related to recent
   increase in ETOH intake.
   - f/u hepatitis serologies
   - cont prednisone 40 qday, pentoxyphline for elevated discriminant
   function.
    2. Encephalopathy: [**3-10**] etoh withdrawal/DT, hepatitis.
    - continue lactulose, rifaximin for hepatic encephalopathy
    - Able to wean off proprol overnight.  Will continue to try to wean
   ativan/fentanyl but DT's will be limiting factor.  If unable to achieve
   sufficient mental status for extuabation, would consider precidex in
   the next day or two.
   - cont thiamine, folate, mvi
   -Follow EKGs on Haldol.
    3. Respiratory Failure:  Intubated for airway protection
   -Very tachypneic and abdominal breathing on PSV today.
   -Largest barrier to extubation is mental status at this point.
    4. Anemia: hct stable with INR 1.5
    - no s/sx active bleed since O/P trauma with intubation, transfuse
   goal > 21
    5. Conjunctivitis: erythromycin drops
    6. FEN: TF started.
    7.  Access:  PIVs: 16, 18, 20  A-line
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-24**] 02:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2139-05-25 06:59:00 Physician Resident Progress Note
Chief Complaint:  42yo F with alcoholic hepatitis, AMS, elevated
   lactate & recent fevers
   24 Hour Events:
   -C.difficile sent off
   -got KUB for increased abdominal distension
   - got 1/2 NS for increased hypernatremia
   - continued to wean down sedation, off propofol
   - lactate down to 1.5 now but bilirubin still elevated at 38, LFTs
   still elevated but INR improved . Hct stable at 25-26
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2139-5-24**] 08:19 AM
   Pantoprazole (Protonix) - [**2139-5-24**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-25**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 88 (82 - 109) bpm
   BP: 112/63(78) {99/51(67) - 131/72(90)} mmHg
   RR: 23 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,269 mL
                                                                    869 mL
   PO:
             TF:
                                                                    961 mL
                                                                    257 mL
   IVF:
                                                                  2,438 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                  1,300 mL
   Urine:
                                                                  2,375 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                   -431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 207
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/43/82.[**Numeric Identifier **]/21/-2
   Ve: 9.5 L/min
   PaO2 / FiO2: 207
   Physical Examination:
   General :  intubated, sedated
   HEENT: PERRL, left eye with mild proptosis/baseline, +scleral icterus
   CVS:  S1/S2 reg, RRR, no murmurs or rubs
   LUNGS: bibasilar mild crackles appreciated
   ABD: unable to assess for tenderness given AMS, diffusely distended,
   normoactive BS
   NEURO: limited exam given AMS /sedation now , deferred
   EXT: Pneumoboots in place, 2+ pedal pulses, 2+ pitting edema , warm
   extremities
   Labs / Radiology
   146 K/uL
   7.4 g/dL
   131 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   4 mg/dL
   114 mEq/L
   144 mEq/L
   25.3 %
   10.6 K/uL
        [image002.jpg]
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2139-5-25**]):
      Feces negative for C.difficile toxin A & B by EIA.
           (Reference Range-Negative).
[**2139-5-24**] 1:23 am SPUTUM      Source: Endotracheal.
GRAM STAIN (Final [**2139-5-24**]):
     >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                  IN PAIRS, CHAINS, AND CLUSTERS.
    RESPIRATORY CULTURE (Preliminary):
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
                             [**2139-5-23**]  12:46 PM
                             [**2139-5-23**]  02:01 PM
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
   WBC
   9.9
   10.3
   11.3
   10.2
   10.6
   Hct
   25.5
   26.4
   26.3
   26.2
   25.3
   Plt
   150
   151
   159
   135
   146
   Cr
   0.9
   1.0
   0.4
   0.4
   0.8
   0.6
   TCO2
   24
   24
   23
   24
   Glucose
   116
   107
   126
   112
   117
   131
   Other labs: PT / PTT / INR:16.6/43.1/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:41/129, Alk Phos / T Bili:334/38.2,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:663
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan:
   42 year old female with a history of alcoholic cirrhosis who presented
   with acute fulminant hepatic failure with multiple electrolyte
   abnormalities, confusion, fevers, & lactate elevation being treated for
   alcoholic hepatitis and ETOH withdrawal
   .
   #Alcoholic hepatitis:
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45%.  Bilirubin continues to climb.
   - continue steroids d5 today
   - continue  pentoxiphylline
   - continue tube feeds via OGT
   - trend LFTs, synthetic function daily
   - f/up liver recs, appreciate input
   .
   # Encephalopathy: Most consistent with hepatic encephalopathy and EtoH
   withdrawal. Recent CT head without evidence of any bleeding.
   - continue lactulose and rifaximin
   - try to limit  Fentanyl, continue taper down ativan
   .
   # EtoH withdrawal:
   - Ativan drip to max 8mg/hr now , will wean today down to 6mg/hr today
   - basal Fentanyl with boluses as needed /  weaning slowly as tolerates
   - continue on haldol 2mg q8h standing, monitor QTC (ok today)
   - continue mvt/thiamine/folate
   - social work input appreciated, will continue to follow
   .
   #Stool changes/distended abdomen: stools more odorous and discolored
   today. [**Month (only) 11**] just simply be lactulose effects and hyperbilirubinemia vs.
   recent antibiotics with ceftriaxone. Overnight C.difficile  was
   negative
   - f/u KUB
   .
   #Electrolyte abnormalities: Chronic issue even as outpatient as she has
   need for Mg and K repletion at home. She has been having low Phos, Mg,
   K  in setting of worse liver failure
   --Will continue to check [**Hospital1 **] lytes and replete as needed
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.
   - active type and screen, transfuse hct>21 or active bleeding
   - check Hcts daily
   - continue PPI
   - stool guaiacs
   .
   # Ventilation: Still remains intubated.
   Unable to tolerate SBT [**3-10**] tachypnea
 also may be element of fluid
   overload.  CXRs have been  clear. She had been intubated for airway
   protection / AMS.
   - Did not tolerate PSV well so will continue to rest on A/C for today
   to maintain safe airway given extreme AMS and encephalopathy.
   - Keep I/Os with goal 1L negative. Will give dose of 20 IV lasix now,
   recheck in PM
   .
   # Increased secretions/ recent fevers:  No current leukocytosis or
   fevers and lactate elevation has now corrected so may not be any clear
   infection.  Intubation with AMS on admission so need to be weary of
   aspiration PNAs and VAP.
   -CIS, low threshold to cover with Abx / holding off for now
   -f/up sputum, blood cultures
   -follow CXRs for interval changes
   .
   # Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae when admitted.  Much improved eye exam with no
   crusting today.
   -erythromycin eye ointment QID ( day 5 of 7 )
   -continue to monitor ; improving
   .
   # Vaginal discharge: Patient with malodorous discharge from below. Was
   started on vaginal flagyl overnight. Patient with history of STDs
   - continue vaginal flagyl
   - consider STD testing/f/u when mental status improved
   - social work when mental status improved
   # Peripheral neuropathy
   - holding gabapentin for now given sedated
   ICU Care
   Nutrition:  OG tube feeds at goal
   Glycemic Control:   continue FSG checks, Humalog PRN for now
   Lines:
   - order for PICC placement
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT:  pneumoboots, SC heparin
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Sister. Privacy [**Name2 (NI) 421**] against her boyfriend
   (h/o abuse?) so he cannot be let in to see her
   Code status: Full code
   Disposition: ICU

2139-05-25 11:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yo F with ETOH abuse, presents wtih etoh hepatitis now c/b
   withdrawal requiring intubation for management
   24 Hour Events:
   Hypernatremia for which she was given 500cc NS
   weaned off propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2139-5-24**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-25**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 93 (82 - 106) bpm
   BP: 107/58(73) {105/54(72) - 131/72(90)} mmHg
   RR: 21 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,269 mL
                                                                  1,486 mL
   PO:
             TF:
                                                                    961 mL
                                                                    335 mL
   IVF:
                                                                  2,438 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  2,975 mL
                                                                  1,560 mL
   Urine:
                                                                  2,375 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,294 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 397 (397 - 397) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 207
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.34/43/82.[**Numeric Identifier **]/21/-2
   Ve: 10 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: Well nourished, intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   146 K/uL
   131 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   4 mg/dL
   114 mEq/L
   144 mEq/L
   25.3 %
   10.6 K/uL
         [image002.jpg]
                             [**2139-5-23**]  05:40 AM
                             [**2139-5-23**]  06:01 AM
                             [**2139-5-23**]  12:46 PM
                             [**2139-5-23**]  02:01 PM
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
   WBC
   9.9
   10.3
   11.3
   10.2
   10.6
   Hct
   25.5
   26.4
   26.3
   26.2
   25.3
   Plt
   150
   151
   159
   135
   146
   Cr
   0.9
   1.0
   0.4
   0.4
   0.8
   0.6
   TCO2
   24
   24
   23
   24
   Glucose
   116
   107
   126
   112
   117
   131
   Other labs: PT / PTT / INR:16.6/43.1/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:41/129, Alk Phos / T Bili:334/38.2,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:663
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Microbiology: cdif - negative
   sputum - gram stain 4+ GNR, 3+ GPC
   Assessment and Plan
   42 yo F with ETOH abuse, presents wtih etoh hepatitis now c/b
   withdrawal requiring intubation for management
   1. ETOH hepatitis:
    - cont prednisone, pentoxyphiline
    - cont lactulose tid
    - appreciate liver service failure input
    - cont trending LFTs daily
   2. ETOH withdrawal
    - cont haldol 2 q 8
    - cont ativan: will taper by 20 % q 24 hours (decrease drip to 6 mg/hr
   today)
    - daily ekg
   3. Vaginal discharge:
    - cont monitor, will need gyn f/u as outpt
   4. Electrolyte abnormalities:
    - cont to replete and check [**Hospital1 **] electrolytes
   5. Respiratory failure: intubated for airway protection initially but
   now tachypneic on PSV
    - would aim tbb negative 500-1L today
    - cont psv trial as tolerated
   6. conjunctivitis: complete erythromycin
   7. FEN: tube feeds at goal
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-25**] 03:57 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2139-05-26 07:13:00 Physician Resident Progress Note
Chief Complaint: 42 yo female with a h/o alcoholic cirrhosis who
   presented with acute fulminant hepatic failure, AMS, now with fevers
   and suspected PNA
   24 Hour Events:
 PAN CULTURE - At [**2139-5-25**] 09:00 PM
   .
   -hypernatremic, increased free h20 and d5
   - febrile to 100.5, increased secretions and CXR with suggestion of RLL
   developing consolidation - consider vap vs moraxella from admit sputum
   - started vanc/cefepime/cipro empirically after cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2139-5-25**] 10:00 PM
   Ciprofloxacin - [**2139-5-25**] 10:00 PM
   Cefipime - [**2139-5-25**] 10:30 PM
   Infusions:
   Lorazepam (Ativan) - 6 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-25**] 12:25 PM
   Fentanyl - [**2139-5-25**] 04:50 PM
   Pantoprazole (Protonix) - [**2139-5-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None new
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 105 (92 - 120) bpm
   BP: 104/54(68) {104/50(66) - 132/75(92)} mmHg
   RR: 26 (20 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,411 mL
                                                                  1,360 mL
   PO:
             TF:
                                                                    820 mL
                                                                    328 mL
   IVF:
                                                                  1,331 mL
                                                                    662 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                    420 mL
   Urine:
                                                                  3,430 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                    940 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 397 (397 - 397) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 311
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/40/102/21/-1
   Ve: 13.3 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General :  intubated, sedated
   HEENT: PERRL, left eye with mild proptosis/baseline, +scleral icterus
   CVS:  S1/S2 reg, RRR, no murmurs or rubs
   LUNGS: bibasilar mild crackles appreciated
   ABD: unable to assess for tenderness given AMS, diffusely distended,
   normoactive BS
   NEURO: limited exam given AMS /sedation now , deferred
   EXT: Pneumoboots in place, 2+ pedal pulses, 2+ pitting edema , warm
   extremities
   Labs / Radiology
   162 K/uL
   8.1 g/dL
   122 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   28.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
   WBC
   11.3
   10.2
   10.6
   8.5
   Hct
   26.3
   26.2
   25.3
   28.0
   Plt
   159
   135
   146
   162
   Cr
   0.4
   0.4
   0.8
   0.6
   0.5
   0.8
   TCO2
   23
   24
   25
   24
   Glucose
   126
   112
   117
   131
   102
   122
   Other labs: PT / PTT / INR:16.4/51.2/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:36/121, Alk Phos / T Bili:289/37.8,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:663
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Sputum cx  [**5-21**]: moraxella and GNRs
   Repeat sputum cx [**5-25**] PND
   BCx [**Date range (1) 12004**] NGTD
   Assessment and Plan
   42 year old female with a history of alcoholic cirrhosis who presented
   with acute fulminant hepatic failure with multiple electrolyte
   abnormalities, confusion, fevers, & lactate elevation being treated for
   alcoholic hepatitis and ETOH withdrawal, still intubated for airway
   protection.
   .
   #Alcoholic hepatitis:
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45%.  Bilirubin continues to elevated at 37.8 now .
   - discontinued steroids today as no improvement in bili on this
   - continue  pentoxiphylline
   - continue daily lactulose and rifaxamin as below
   - continue mvt/thiamine/folate
   - continue tube feeds via OGT
   - trend LFTs, synthetic function daily
   - f/up liver recs, appreciate input
   .
   # Encephalopathy: Most consistent with hepatic encephalopathy and EtoH
   withdrawal. Recent CT head without evidence of any bleeding. Ativan
   tapered down to 6 overnight
   - continue lactulose and rifaxamin
   - try to limit  Fentanyl, continue taper down ativan as tolerates,
   taper at 4 today
   .
   # EtoH withdrawal:
   - Ativan drip tapering as she tolerates ( down from max 8mg/hr to
   6mg/hr now , trial of 4mg/hr today)
   - basal Fentanyl with boluses as needed /  weaning slowly as tolerates
   (75 today)
   - continue on haldol 2mg q8h standing, monitor QTC w/EKG
   - continue mvi/thiamine/folate
   - social work input appreciated, will continue to follow
   .
   # Ventilation: Still remains intubated. [**Month (only) 11**] be secondary to new VAP by
   CXR, increased secretions
   Unable to tolerate SBT [**3-10**] tachypnea
 also may be element of fluid
   overload. She had been intubated for airway protection / AMS.
   - Did not tolerate PSV well so will continue to rest on A/C for today
   to maintain safe airway given extreme AMS and encephalopathy.
   - Keep I/Os with goal -1L negative
 gentle diuresis with PRN 20 IV
   lasix as needed
   - maintaine UOP >40cc/hr
   . .
   # Increased secretions/ recent fevers:  No current leukocytosis but Tm
   to 100.5F and questionable infiltrate overnight on CXR at RLL.
   Lactate elevation has now corrected , but this was likely more related
   to ALF.  Intubation with AMS on admission so need to be weary of
   aspiration PNAs and VAP.  Opted to start therapy overnight as below.
   -continue on Vanco/Cef/Cipro for VAP coverage for now  (day [**3-16**])
   -CIS
   -f/up sputum, blood cultures
   -follow CXRs for interval changes
   #Stool changes/distended abdomen: stools more odorous and discolored
   today. [**Month (only) 11**] just simply be lactulose effects and hyperbilirubinemia vs.
   recent antibiotics with ceftriaxone. Overnight C.difficile  was
   negative. KUB with fluid and air in colon.
   .
   #Electrolyte abnormalities: Chronic issue even as outpatient as she has
   need for Mg and K repletion at home. She has been having low Phos, Mg,
   K  in setting of worse liver failure. Also with hypernatremia with free
   water repletion
   --Will continue to check [**Hospital1 **] lytes and replete as needed
   - continue free water flushes, but decrease if Na continues to be
   improved
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.  HCt stable at 26-28 range for several days now.
   - active type and screen, transfuse hct>21 or active bleeding
   - check Hcts daily
   - continue PPI
   - stool guaiacs
   .
   # Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae when admitted.  Much improved eye exam with no
   crusting today.
   -erythromycin eye ointment QID ( day 6 of 7 today  )
   -continue to monitor ; improving
   .
   # Vaginal discharge: Patient with malodorous discharge from below. Was
   started on vaginal flagyl overnight. Patient with history of STDs
   - continue vaginal flagyl
   - send urine for chlamydia/gonorrhea, HCV, RPR
   - consider STD testing/f/u when mental status improved
   - social work when mental status improved
   # Peripheral neuropathy
   - holding gabapentin for now given sedated
   ICU Care
   Nutrition:  tube feeds via OGT
   Fibersource HN (Full) - [**2139-5-25**] 03:57 AM 40 mL/hour
   Glycemic Control:   SSI Humalog
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT:  SC heparin (change to [**Hospital1 **]) and boots
   Stress ulcer:  PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Sister (privacy alert for husband who has
   abuse history)
   Code status: Full code
   Disposition:  ICU on vent, weaning vent slowly and weaning sedation

2139-05-26 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 100.5
   - Started abx (vanc/cefepime/cipro) for VAP - increased secretions, BLL
   opacity? on CXR
   - Hypernatremia - free water boluses started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2139-5-25**] 10:00 PM
   Cefipime - [**2139-5-25**] 10:30 PM
   Vancomycin - [**2139-5-26**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2139-5-25**] 12:25 PM
   Fentanyl - [**2139-5-25**] 04:50 PM
   Pantoprazole (Protonix) - [**2139-5-25**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2139-5-26**] 08:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-26**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 110 (93 - 120) bpm
   BP: 110/61(75) {97/50(66) - 132/75(92)} mmHg
   RR: 28 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,411 mL
                                                                  1,993 mL
   PO:
             TF:
                                                                    820 mL
                                                                    338 mL
   IVF:
                                                                  1,331 mL
                                                                    915 mL
   Blood products:
   Total out:
                                                                  4,830 mL
                                                                    520 mL
   Urine:
                                                                  3,430 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,419 mL
                                                                  1,473 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 311
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/40/102/21/-1
   Ve: 12.9 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   135 K/uL
   122 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   8 mg/dL
   110 mEq/L
   142 mEq/L
   25.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2139-5-23**]  11:09 PM
                             [**2139-5-24**]  05:02 AM
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
   WBC
   11.3
   10.2
   10.6
   8.5
   10.1
   Hct
   26.3
   26.2
   25.3
   28.0
   25.1
   Plt
   159
   135
   146
   162
   135
   Cr
   0.4
   0.4
   0.8
   0.6
   0.5
   0.8
   TCO2
   23
   24
   25
   24
   Glucose
   126
   112
   117
   131
   102
   122
   Other labs: PT / PTT / INR:16.4/51.2/1.5, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:36/121, Alk Phos / T Bili:289/37.8,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:663
   IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR - Developing RLL infiltrate, persistent LLL infiltrate.
   Microbiology: [**5-25**] - Sputum culture pending.
   Assessment and Plan
   42 yo F with ETOH abuse, presents wtih etoh hepatitis now c/b
   withdrawal requiring intubation for management c/b VAP.
   #. Fever, increased secretions, bibasilar infiltrates: Presumed VAP
   - 8 days of abx
   - F/U sputum coverage
   - Daily CXR
   - Pan culture
   #. ETOH hepatitis:
    - D/C prednisone; s/p 6 day course
    - Cont pentoxyphiline, lactulose, rifaximin, MV, thiamine, folate
    - Appreciate liver service failure input
    - Cont trending LFTs daily
   #. ETOH withdrawal
    - Cont haldol 2 q 8
    - Cont ativan: will taper by 20 % q 24 hours (decrease drip to 4 mg/hr
   today)
    - Off propofol, wean fentanyl
    - Daily ekg
   #. Respiratory failure: intubated for airway protection initially but
   now tachypneic on PSV
    - Daily PSV  trials
   - VAP treatment
   - TBB negative 1L today
   - Bronchodilators
   #. Electrolyte abnormalities:
    - Cont to replete and check [**Hospital1 **] electrolytes
   #. Conjunctivitis: On erythromycin day [**7-13**]
   #. Vaginal discharge: On metrogel. STD screening. SW consult when
   extubated and awake.
   #. FEN: Tube feeds at goal with FWF.
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2139-5-21**] 09:50 AM
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI PO
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes
   Patient is critically ill

2139-05-27 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -sent off urine chlamydia assay
   -gave 20 IV lasix
   - tachy overnight x 2+ hrs so increased Ativan gtt back to 6 /hr
   - has very dirty urine / UTI, awaiting cultures ( already on
   Vanco/Cef/Cipro)
   -PCP [**First Name4 (NamePattern1) 306**] [**Last Name (NamePattern1) 2503**] stopped by, please page her if any family meeting
   will be taking place
   - grew out GNRs from blood cx [**5-25**] ( [**2-9**] anaerobic bottle)--still on
   Vanc/cef/cipro
   - holding on Cipro 1 more day until sputum cx final back from today
   -plus now has + UTI so will check urine cultures sent off overnight
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-5-26**] 12:00 PM
   Vancomycin - [**2139-5-26**] 08:00 PM
   Ciprofloxacin - [**2139-5-26**] 08:31 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-5-26**] 08:32 PM
   Furosemide (Lasix) - [**2139-5-27**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-27**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 113 (100 - 123) bpm
   BP: 122/66(83) {97/55(67) - 143/82(100)} mmHg
   RR: 25 (22 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,289 mL
                                                                    859 mL
   PO:
             TF:
                                                                  1,003 mL
                                                                    314 mL
   IVF:
                                                                  1,476 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  3,875 mL
                                                                  2,580 mL
   Urine:
                                                                  3,375 mL
                                                                  1,980 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                    414 mL
                                                                 -1,721 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   RR (Set): 20
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 268
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 12.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   8.8 g/dL
   106 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.3 mEq/L
   13 mg/dL
   110 mEq/L
   145 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
                             [**2139-5-26**]  04:24 PM
                             [**2139-5-27**]  02:48 AM
   WBC
   10.6
   8.5
   10.1
   12.2
   13.9
   Hct
   25.3
   28.0
   25.1
   28.0
   28.5
   Plt
   146
   162
   135
   158
   163
   Cr
   0.8
   0.6
   0.5
   0.8
   0.5
   0.5
   TCO2
   23
   24
   25
   24
   Glucose
   117
   131
   102
   122
   103
   106
   Other labs: PT / PTT / INR:15.6/45.1/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:46/152, Alk Phos / T Bili:312/42.8,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:660
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   42 year old female with a history of alcoholic cirrhosis who presented
   with acute fulminant hepatic failure with multiple electrolyte
   abnormalities, confusion, fevers, & lactate elevation being treated for
   alcoholic hepatitis and ETOH withdrawal, still intubated for airway
   protection.
   .
   #Alcoholic hepatitis:
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45%.  Bilirubin continues to elevated at 37.8 now .
   - discontinued steroids today as no improvement in bili on this
   - continue  pentoxiphylline
   - continue daily lactulose and rifaxamin as below
   - continue mvt/thiamine/folate
   - continue tube feeds via OGT
   - trend LFTs, synthetic function daily
   - f/up liver recs, appreciate input
   .
   # Encephalopathy: Most consistent with hepatic encephalopathy and EtoH
   withdrawal. Recent CT head without evidence of any bleeding. Ativan
   tapered down to 6 overnight
   - continue lactulose and rifaxamin
   - try to limit  Fentanyl, continue taper down ativan as tolerates,
   taper at 4 today
   .
   # EtoH withdrawal:
   - Ativan drip tapering as she tolerates ( down from max 8mg/hr to
   6mg/hr now , trial of 4mg/hr today)
   - basal Fentanyl with boluses as needed /  weaning slowly as tolerates
   (75 today)
   - continue on haldol 2mg q8h standing, monitor QTC w/EKG
   - continue mvi/thiamine/folate
   - social work input appreciated, will continue to follow
   .
   # Ventilation: Still remains intubated. [**Month (only) 11**] be secondary to new VAP by
   CXR, increased secretions
   Unable to tolerate SBT [**3-10**] tachypnea
 also may be element of fluid
   overload. She had been intubated for airway protection / AMS.
   - Did not tolerate PSV well so will continue to rest on A/C for today
   to maintain safe airway given extreme AMS and encephalopathy.
   - Keep I/Os with goal -1L negative
 gentle diuresis with PRN 20 IV
   lasix as needed
   - maintaine UOP >40cc/hr
   . .
   # Increased secretions/ recent fevers:  No current leukocytosis but Tm
   to 100.5F and questionable infiltrate overnight on CXR at RLL.
   Lactate elevation has now corrected , but this was likely more related
   to ALF.  Intubation with AMS on admission so need to be weary of
   aspiration PNAs and VAP.  Opted to start therapy overnight as below.
   -continue on Vanco/Cef/Cipro for VAP coverage for now  (day [**3-16**])
   -CIS
   -f/up sputum, blood cultures
   -follow CXRs for interval changes
   #Stool changes/distended abdomen: stools more odorous and discolored
   today. [**Month (only) 11**] just simply be lactulose effects and hyperbilirubinemia vs.
   recent antibiotics with ceftriaxone. Overnight C.difficile  was
   negative. KUB with fluid and air in colon.
   .
   #Electrolyte abnormalities: Chronic issue even as outpatient as she has
   need for Mg and K repletion at home. She has been having low Phos, Mg,
   K  in setting of worse liver failure. Also with hypernatremia with free
   water repletion
   --Will continue to check [**Hospital1 **] lytes and replete as needed
   - continue free water flushes, but decrease if Na continues to be
   improved
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.  HCt stable at 26-28 range for several days now.
   - active type and screen, transfuse hct>21 or active bleeding
   - check Hcts daily
   - continue PPI
   - stool guaiacs
   .
   # Conjunctivitis: Eyes with bilateral yellowish-green thick secretions
   along conjunctivae when admitted.  Much improved eye exam with no
   crusting today.
   -erythromycin eye ointment QID ( day 6 of 7 today  )
   -continue to monitor ; improving
   .
   # Vaginal discharge: Patient with malodorous discharge from below. Was
   started on vaginal flagyl overnight. Patient with history of STDs
   - continue vaginal flagyl
   - send urine for chlamydia/gonorrhea, HCV, RPR
   - consider STD testing/f/u when mental status improved
   - social work when mental status improved
   # Peripheral neuropathy
   - holding gabapentin for now given sedated
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-26**] 07:24 AM 40 mL/hour
   Glycemic Control:  SSI
   Lines:
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: [**Hospital1 **] heparin and pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Sister (privacy alert for husband who has
   abuse history)
   Code status: Full code
   Disposition: ICU

2139-05-27 11:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - GNR 1/4 bottles blood culture [**5-25**]
   - Tachycardiac overnight - Ativan gtt increased 6mg/hr, now decreased
   to 3mg/hr
   - Lasix 20mg IV this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-5-26**] 12:00 PM
   Vancomycin - [**2139-5-26**] 08:00 PM
   Ciprofloxacin - [**2139-5-27**] 09:12 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2139-5-26**] 08:32 PM
   Furosemide (Lasix) - [**2139-5-27**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-27**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 105 (100 - 123) bpm
   BP: 121/62(80) {105/58(72) - 143/82(100)} mmHg
   RR: 23 (22 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,289 mL
                                                                  1,043 mL
   PO:
             TF:
                                                                  1,003 mL
                                                                    435 mL
   IVF:
                                                                  1,476 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  3,875 mL
                                                                  3,260 mL
   Urine:
                                                                  3,375 mL
                                                                  2,660 mL
   NG:
   Stool:
                                                                    500 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                    414 mL
                                                                 -2,217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 276 (276 - 276) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 268
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   163 K/uL
   106 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.3 mEq/L
   13 mg/dL
   110 mEq/L
   145 mEq/L
   28.5 %
   13.9 K/uL
        [image002.jpg]
                             [**2139-5-24**]  05:13 AM
                             [**2139-5-24**]  02:41 PM
                             [**2139-5-25**]  03:40 AM
                             [**2139-5-25**]  03:49 AM
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
                             [**2139-5-26**]  04:24 PM
                             [**2139-5-27**]  02:48 AM
   WBC
   10.6
   8.5
   10.1
   12.2
   13.9
   Hct
   25.3
   28.0
   25.1
   28.0
   28.5
   Plt
   146
   162
   135
   158
   163
   Cr
   0.8
   0.6
   0.5
   0.8
   0.5
   0.5
   TCO2
   23
   24
   25
   24
   Glucose
   117
   131
   102
   122
   103
   106
   Other labs: PT / PTT / INR:15.6/45.1/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:46/152, Alk Phos / T Bili:312/42.8,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:660
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR - Decreasing edema.
   Microbiology: Blood culture [**5-25**]
 ESBL e. coli
   Sputum [**5-24**] - ESBL E. coli (S) zosyn, [**Last Name (un) **];
   Sputum [**5-21**] - GNR, sparse growth
   Urine [**5-21**] - GNR 9000/ml
   RPR negative
   Assessment and Plan
   42 yo F with ETOH abuse, presents wtih etoh hepatitis now c/b
   withdrawal requiring intubation for management c/b VAP.
   #. ESBL e. coli bacteremia: Also growing GRN out of urine and ESBL e.
   coli out of sputum
   - Change to meropenem. D/c vanc and cipro.
   - F/U repeat blood cultures; fever curve.
   #. ETOH hepatitis:
   - Cont pentoxyphiline, lactulose, rifaximin, MV, thiamine, folate
   - S/p 6 day course of prednisone
   - Appreciate liver service failure input
   - Cont trending LFTs daily
   #. ETOH withdrawal
    - Cont haldol 2 q 8
    - Cont ativan: will taper by 20 % q 24 hours (decrease drip to 3 mg/hr
   today)
    - Off propofol, weaning fentanyl
    - Daily ekg
   #. Respiratory failure: intubated for airway protection initially but
   now tachypneic on PSV, likely [**3-10**] anxiety. CXR improved with diuresis.
   - Change to PSV today; if tolerates, plan for extubation tomorrow am
   +/- precedex tomorrow
   - TBB negative 1L today
   #. GOC: Clarifying prognosis of liver disease with liver team. Planning
   for family meeting on Friday; hopefully patient will be extubated by
   then and possibly able to participate on some level.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-27**] 08:22 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35  minutes
   Patient is critically ill

2139-05-28 06:15:00 Physician Resident Progress Note
Chief Complaint: alcoholic hepatitis, altered mental status
   24 Hour Events:
   - Grew out ESBL ecoli from blood, sputum cultures, changed to meropenem
   - Tolerated pressure support at 15/8 for 10 hours
   - Ativan gtt down to 2mg/hr overnight
   - Cr bumped with 3L autodiuresis overnight, Na also increased so given
   1L fluid with K repletion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-5-26**] 12:00 PM
   Vancomycin - [**2139-5-26**] 08:00 PM
   Ciprofloxacin - [**2139-5-27**] 09:12 AM
   Meropenem - [**2139-5-27**] 09:00 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Lorazepam (Ativan) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-28**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 105 (100 - 118) bpm
   BP: 130/72(88) {111/54(73) - 138/78(97)} mmHg
   RR: 25 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,498 mL
                                                                  1,550 mL
   PO:
             TF:
                                                                    961 mL
                                                                    250 mL
   IVF:
                                                                    947 mL
                                                                    711 mL
   Blood products:
   Total out:
                                                                  5,470 mL
                                                                  1,165 mL
   Urine:
                                                                  4,070 mL
                                                                    365 mL
   NG:
   Stool:
                                                                  1,400 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                 -2,972 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 603 (402 - 673) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/46/89.[**Numeric Identifier 433**]/24/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General :  intubated, sedated
   HEENT: PEARL, icteric sclera
   CVS:  regular no m/r/g
   LUNGS: lungs clear on anterior exam, no rales or wheezing appreciated
   ABD: soft +bowel sounds nontender hepatomegaly
   NEURO: sedated, not following commands
   EXT: Pneumoboots in place, 2+ pedal pulses, anasarca
   Derm: Jaundiced
   Labs / Radiology
   163 K/uL
   8.8 g/dL
   103 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   17 mg/dL
   110 mEq/L
   145 mEq/L
   24.5 %
   13.9 K/uL
   5am [**5-28**]:
   Ca: 8.7 Mg: 2.3 P: 2.7
   ALT 51 / AST 168 / ALP 281 / total bili 34.4 , alb 2.4
                             [**2139-5-25**]  03:49 AM
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
                             [**2139-5-26**]  04:24 PM
                             [**2139-5-27**]  02:48 AM
                             [**2139-5-27**]  12:06 PM
                             [**2139-5-27**]  05:31 PM
                             [**2139-5-28**]  12:33 AM
   WBC
   8.5
   10.1
   12.2
   13.9
   Hct
   28.0
   25.1
   28.0
   28.5
   24.5
   Plt
   162
   135
   158
   163
   Cr
   0.5
   0.8
   0.5
   0.5
   1.3
   0.5
   TCO2
   24
   25
   24
   28
   Glucose
   102
   122
   103
   106
   103
   Other labs: PT / PTT / INR:15.6/45.1/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:46/152, Alk Phos / T Bili:312/42.8,
   Amylase / Lipase:/93, Lactic Acid:1.5 mmol/L, Albumin:2.6 g/dL, LDH:660
   IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Micro
   4/20,22 blood cx NGTD
   [**5-25**] blood cx [**3-12**] GNRs identities pending
   [**5-24**] blood cx
   [**5-26**] urine cx E coli >100k
   [**5-27**] sputum 2+ organisms c/w oropharyngeal flora, cx pending
   [**5-25**] sputum ESBL E coli
   [**5-24**] sputum ESBL E coli heavy growth, moderate S. aureus
   [**5-26**] urine GC PCR negative
   CXR R lower lung field infiltrate as before , ET tube ~7cm
   Assessment and Plan
   42 year old female with a history of alcoholic cirrhosis who presented
   with worse alcoholic hepatitis with multiple electrolyte abnormalities,
   confusion, fevers, & lactate elevation being treated for alcoholic
   hepatitis and ETOH withdrawal, still intubated for airway protection.
   .
   # Bacteremia and VAP:
   Sputum and blood with ESBL E coli, still febrile overnight. Possible
   aspiration leading to pna. Also possible urinary source for the
   bacteremia. Foley has been changed. Leukocytosis to 13 and fevers to
   101F this morning.
   .
   - still spiking [**Age over 90 2224**]F temps, will restart Vancomycin today
   - Continue meropenem (d1=[**5-27**]), anticipate 8d course for VAP
   - Follow up pending cultures and final sensitivites, CIS
   #Alcoholic hepatitis:
   Bili down today, MELD is 24. On steroids initially, but no response
   stopped also [**3-10**] infection
   Ultrasound with poor study but patent vasculature and no overt ascites
   noted.  Discriminate function is 63 on admit.  Estimated mortality
   given her degree of elevation in the presence of encephalopathy is on
   the order of 45.
   .
   - continue  pentoxiphylline
   - continue daily lactulose and rifaxamin
   - continue tube feeds via OGT
   - trend LFTs, synthetic function daily
   - f/up liver recs, appreciate input
   .
   # Encephalopathy: Most consistent with hepatic encephalopathy and EtoH
   withdrawal. Recent CT head without evidence of any bleeding.
   - continue lactulose and rifaxamin as above
   - try to limit  Fentanyl if possible
   -will switch off Ativan drip today and start Ativan PRN with CIWA scale
   - can switch  Haldol to PRN [**Hospital1 **]  now
   .
   # EtoH withdrawal:
   - d/c Ativan drip, will start  PRN Ativan for CIWA >10
   - basal Fentanyl with boluses as needed /  weaning slowly as tolerates
   - continue on haldol 2mg q8h but will switch to PRN now , monitor QTC
   w/EKG
   - continue mvi/thiamine/folate
   - social work input appreciated, will continue to follow
   .
   # Ventilation:
   Intubated [**3-10**] altered mental status over the weekend. Tachypneic on PSV
   trials. Large belly, edema, suspected VAP are obstacles to coming off
   vent
   .
   - wean PS today
   - Consider  precedex/extubation trial [**Last Name (un) **]
   - Keep I/Os with goal -1L negative
   .
   # Anemia:
   Pt with baseline anemia, also h/o BRBPR at home though none here. Had
   some oral trauma in setting of intubation causing some additional blood
   loss.  HCt stable at 26-28 range for several days now.
   - active type and screen, transfuse hct>21 or active bleeding
   - check Hcts daily
   - continue PPI
   - stool guaiacs
   .
   # Conjunctivitis:
   continue topical erythromycin
   .
   # Vaginal discharge: Patient with malodorous vaginal discharge. Was
   started on topical metronidazole. Patient with history of STDs. RPR
   negative, urine GC negative. GC not sent, but patient had been treated
   with cefepime which would treat GC.
   - continue vaginal flagyl
   - consider HIV testing when awake
   - social work when mental status improved
   .
   # Peripheral neuropathy
   - holding gabapentin for now given sedated
   .
   #Access issues;
   - will hold off on RIJ today, will plan to attempt replace PIVs again
   and monitor fevers x 24 hrs  and if afebrile will plan for PICC instead
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-27**] 08:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: heparin SQ / boots
   Stress ulcer:  PPI
   VAP:   wakeups, mouthcare, head of bed elevation
   Communication  family meeting with liver,  ICU team and PCP
   [**Name9 (PRE) 129**] status: Full code
   Disposition: ICU

2139-05-28 10:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tolerated PS [**1-13**] x 10 hours
   - Thick yellow secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2139-5-26**] 12:00 PM
   Vancomycin - [**2139-5-26**] 08:00 PM
   Ciprofloxacin - [**2139-5-27**] 09:12 AM
   Meropenem - [**2139-5-28**] 04:37 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Lorazepam (Ativan) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2139-5-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-5-28**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 107 (100 - 118) bpm
   BP: 112/54(72) {111/54(72) - 138/78(97)} mmHg
   RR: 41 (15 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.2 kg (admission): 94.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,498 mL
                                                                  2,623 mL
   PO:
             TF:
                                                                    961 mL
                                                                    399 mL
   IVF:
                                                                    947 mL
                                                                  1,234 mL
   Blood products:
   Total out:
                                                                  5,470 mL
                                                                  1,345 mL
   Urine:
                                                                  4,070 mL
                                                                    545 mL
   NG:
   Stool:
                                                                  1,400 mL
                                                                    800 mL
   Drains:
   Balance:
                                                                 -2,972 mL
                                                                  1,278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 472 (402 - 673) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/46/89.[**Numeric Identifier 433**]/25/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   114 K/uL
   115 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   25.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2139-5-25**]  05:08 PM
                             [**2139-5-25**]  05:19 PM
                             [**2139-5-26**]  05:22 AM
                             [**2139-5-26**]  05:39 AM
                             [**2139-5-26**]  04:24 PM
                             [**2139-5-27**]  02:48 AM
                             [**2139-5-27**]  12:06 PM
                             [**2139-5-27**]  05:31 PM
                             [**2139-5-28**]  12:33 AM
                             [**2139-5-28**]  05:44 AM
   WBC
   8.5
   10.1
   12.2
   13.9
   10.7
   Hct
   28.0
   25.1
   28.0
   28.5
   24.5
   25.2
   Plt
   162
   135
   158
   163
   114
   Cr
   0.5
   0.8
   0.5
   0.5
   1.3
   0.5
   0.8
   TCO2
   25
   24
   28
   Glucose
   102
   122
   103
   106
   103
   115
   Other labs: PT / PTT / INR:15.7/45.8/1.4, CK / CKMB /
   Troponin-T:442/12/<0.01, ALT / AST:51/168, Alk Phos / T Bili:281/34.4,
   Amylase / Lipase:/93, Differential-Neuts:75.0 %, Band:3.0 %, Lymph:8.0
   %, Mono:7.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Albumin:2.4 g/dL,
   LDH:517 IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   42 yo F with ETOH abuse, presents wtih etoh hepatitis and  withdrawal
   requiring intubation for management. Course c/b e. coli bacteremia.
   #. Respiratory failure: intubated for airway protection initially but
   now tachypneic on SBT with TVs 100-200, likely [**3-10**] VAP and sedation.
   CXR improved with diuresis.
   - PS today; hope to extubate in the am with sedation plan as below.
   #. ETOH withdrawal
   - Start precedex and wean off fentanyl and ativan gtts and change
   haldol to 1mg prn [**Hospital1 **].
   - Ativan PO prn for agitation, tachycardia, HTN
   - Daily ekg
    #. Fevers: ESBL e. coli bacteremia; also growing out of urine and
   sputum. Staph aureus on sputum culture [**5-24**].
   - On meropenem D2.
   - Vanc added back today. Will follow-up sensitivities from sputum
   #. ETOH hepatitis:
   - Cont pentoxyphiline, lactulose, rifaximin, MV, thiamine, folate
   - S/p 6 day course of prednisone
   - Appreciate liver service failure input
   - Cont trending LFTs daily
   #. Access: PIVs for now; will try to avoid IJ today if possible with
   hopes for PICC tomorrow if afebrile.
   #. GOC: Clarifying prognosis of liver disease with liver team. Planning
   for family meeting on Friday; hopefully patient will be extubated by
   then and possibly able to participate on some level.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2139-5-28**] 09:20 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2139-5-22**] 09:47 AM
   18 Gauge - [**2139-5-22**] 09:54 AM
   Arterial Line - [**2139-5-22**] 08:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill